US07384945B2
Cyclopropyl-{4-[6-fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazin-1-yl}-methanone
80 mg of 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole (0.16 mmol) and 0.033 ml TEA (0.24 mmol) were dissolved in 1.5 ml dichloromethane and treated with 0.019 ml cyclopropanecarbonyl chloride (0.2 mmol). After 2 h stirring at rt, the reaction mixture was diluted with dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 89 mg yellow solid (98%). MS (ISP) 569.4 (M+H)+.

reactant | 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole | 0.16 mmol, 80 mg | FC1=CC2=C(N(C(=N2)COC2=CC=CC=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=C1N1CCNCC1 | C26H24F4N4O2
reactant | cyclopropanecarbonyl chloride | 0.2 mmol, 0.019 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | Cyclopropyl-{4-[6-fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazin-1-yl}-methanone | C1(CC1)C(=O)N1CCN(CC1)C1=CC2=C(N=C(N2CC2=CC=C(C=C2)OC(F)(F)F)COC2=CC=CC=C2)C=C1F | C30H28F4N4O3
